US08048881B2
86.3. 4-{(S)-4-tert-butoxycarbonyl-2-[(6-methyl-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester
Intermediate 86.2 (214 mg), HOBT hydrate (168 mg) and EDCI hydrochloride (210 mg) were dissolved in DMF (7 ml). After 15 min stirring, 4-((S)-2-amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester (377 mg) was added and the stirring was continued overnight at RT. A saturated NH4Cl solution was added and the mixture was extracted with EA. The org. phases were dried (Na2SO4) and evaporated off. Column chromatography (EA/Hept 1/3 to 1/1) of the crude offered the compound still contaminated by some starting material. It was then taken up in EA and washed with a Na2CO3 solution, dried and evaporated off to give 462 mg of the pure desired compound.

reactant | HOBT hydrate | 168 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDCI hydrochloride | 210 mg | CCN=C=NCCCN(C)C.Cl
reactant | 4-((S)-2-amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | 377 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)N)=O | C16H29N3O5
reactant | NH4Cl | [NH4+].[Cl-]
reactant | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 4-{(S)-4-tert-butoxycarbonyl-2-[(6-methyl-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 462 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)C)C1=CC=CC=C1)=O | C28H37N5O6
